US04804665
2-Methoxycarbonylmethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride
In trifluoroacetic acid (3 ml) was dissolved 8-tert-butyloxycarbonyl-2-methoxycarbonylmethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione (0.5 g), and the solution was left standing at room temperature for 10 minutes. To the solution was added methanol (20 ml), to which was added 2 ml of a methanol solution of 1N hydrogen chloride. The solvent was evaporated off under reduced pressure, and the residual oil was crystallized from ether-methanol to obtain 0.32 g of a coloress solid, m.p. 174° to 178° C.

reactant | 8-tert-butyloxycarbonyl-2-methoxycarbonylmethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.5 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)OCC(=O)OC)=O)CC1 | C16H24N2O7
reactant | methanol | 20 ml | CO | CH4O
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Methoxycarbonylmethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride | Cl.COC(=O)CON1C(C2(CC1=O)CCNCC2)=O | InChI=1S/C11H16N2O5.ClH/c1-17-9(15)7-18-13-8(14)6-11(10(13)16)2-4-12-5-3-11;/h12H,2-7H2,1H3;1H
